US07129234B2
2-(4-Chlorophenoxy)-N,N-dimethylnicotinamide
To a rapidly stirred mixture of 10 mL of benzene and dimethylamine (2.6 mL of a 40% solution) was added a slurry of 2-(4-chlorophenoxy)nicotinoyl chloride (0.536 g, 2 mmol, Maybridge Chemical Co.) over 5 min. The biphasic mixture was stirred at room temperature for 18 h and then diluted with water and benzene. The aqueous layer was further extracted with benzene and the organic layers were combined and washed (brine, water), dried (Na2SO4) and concentrated in vacuo to produce the product as a pale yellow oil (0.432 g); δH (CDCl3, 400 MHz) 8.14 (dd, 1H), 7.72 (dd, 1H), 7.33 (m, 2H), 7.03 (m, 3H), 3.12 (s, 3H), 2.99 (s, 3H); MS m/z279, 277 (MH+).

reactant | dimethylamine | CNC | C2H7N
reactant | 2-(4-chlorophenoxy)nicotinoyl chloride | 2 mmol, 0.536 g | ClC1=CC=C(OC2=C(C(=O)Cl)C=CC=N2)C=C1 | C12H7Cl2NO2
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 2-(4-Chlorophenoxy)-N,N-dimethylnicotinamide | 0.432 g | ClC1=CC=C(OC2=C(C(=O)N(C)C)C=CC=N2)C=C1 | C14H13ClN2O2
